US07186729B2
Step 4: 5-Chloro-2-(4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazin-1-yl)-benzoic acid methyl ester
To a solution of 5-chloro-2-piperazin-1-yl-benzoic acid methyl ester (0.23 g, 0.916 mmol) in isopropanol (8.0 mL) was added 2,6-lutidine (0.16 mL, 1.33 mmol) and catalytic potassium iodide. This mixture was heated to 80° C. and treated with 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.26 g, 0.67 mmol) in portions over 2 h. The solution was then stirred at 80° C. for an additional 18 h. The reaction mixture was concentrated in vacuo, then purified by flash chromatography on silica gel (gradient elution from 95% ethyl acetate/5% methanol to 90% ethyl acetate/10% Methanol) to yield the title compound. 1H-NMR (DMSO) δ: 1.40 (6H, s), 2.15–2.55 (8H, m), 2.75–2.95 (4H, m), 3.75 (3H, s), 5.20 (2H, br s), 6.10 (1H, t), 6.65 (1H, dd), 7.00–7.60 (6H, m), 7.70 (1H, dd), 8.50 (1H, dd). ESI-MS m/z: 548 (M+1), UV retention time: 1.56 min.

reactant | 5-chloro-2-piperazin-1-yl-benzoic acid methyl ester | 0.916 mmol, 0.23 g | COC(C1=C(C=CC(=C1)Cl)N1CCNCC1)=O | C12H15ClN2O2
reactant | 2,6-lutidine | 1.33 mmol, 0.16 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.67 mmol, 0.26 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | 8.0 mL | C(C)(C)O | C3H8O
product | 5-Chloro-2-(4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazin-1-yl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Cl)N1CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)=O | C31H34ClN3O4
